US06683187B2
6. Preparation of 2,6-bis-[1-(2,6-difluorophenylimino) ethyl]pyridine (4)
2,6-Diacetylpyridine (1.76 g, 10.8 mmol) and 2,6-difluoroaniline (2.94 g, 22.8 mmol) were dissolved in 50 ml of toluene. To this solution 4 Å molecular sieves were added. After standing for 3 days, with addition of more 4 Å molecular sieves the mixture was filtered. The solvent was removed in vacuo. The residue was crystallised from ethanol. Yield of 4:1 g (24%). 1H-NMR (CDCl3) δ 8.44 (d, 2H, Py-Hm), 7.90 (t, 1H, Py-Hp), 7.05 (m, 2H, ArH) 6.96 (m, 4H, ArH), 2.44 (s, 6H, Me). 19F-NMR (CDCl3) δ −123.6

reactant | 2,6-Diacetylpyridine | 10.8 mmol, 1.76 g | C(C)(=O)C1=NC(=CC=C1)C(C)=O | C9H9NO2
reactant | 2,6-difluoroaniline | 22.8 mmol, 2.94 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2,6-bis-[1-(2,6-difluorophenylimino) ethyl]pyridine | FC1=C(C(=CC=C1)F)N=C(C)C1=NC(=CC=C1)C(C)=NC1=C(C=CC=C1F)F | C21H15F4N3
